US08686048B2
Intermediate 51: 3,4′-dichloro-5-fluoro-3′-methoxybiphenyl-4-amine
The title compound (82 mg) was prepared from 4-bromo-2-chloro-6-fluoroaniline (100 mg, 0.44 mmol) and 4-chloro-5-methoxyphenylboronic acid (107 mg, 0.62 mmol) as a pale-yellow solid.

reactant | 4-bromo-2-chloro-6-fluoroaniline | 0.44 mmol, 100 mg | BrC1=CC(=C(N)C(=C1)F)Cl | C6H4BrClFN
reactant | 4-chloro-5-methoxyphenylboronic acid | 0.62 mmol, 107 mg | ClC1=CC=C(C=C1OC)B(O)O | C7H8BClO3
product | 3,4′-dichloro-5-fluoro-3′-methoxybiphenyl-4-amine | 82 mg | ClC=1C=C(C=C(C1N)F)C1=CC(=C(C=C1)Cl)OC | C13H10Cl2FNO
